US04732901
3-(1-Tridecynyl)pyridine-4-carboxaldehyde
Palladium acetate (10.8 mg) was added to a stirred, deaerated solution of 3-bromopyridine-4-carboxaldehyde (0.80 g, 4.5 mmole; prepared as described by E. J. Corey, S. G. Pyne and A. I. Schafer, Tet. Letters, 3291, 1983), 1-tridecyne (1.4 g) and triphenylphosphine (36 mg) in anhydrous triethylamine (18 ml) maintained under an atmosphere of nitrogen. The mixture was stirred at 105° C. for 19 hours after which time it was cooled and the precipitated triethylamine hydrobromide filtered off. Chromatography of the evaporated filtrate on silica using dichloromethane as eluant afforded 0.93 g (73%) of the title compound as a white crystalline solid of mp (petroleum ether [bp. 40°-60° C.]) 38°-39° C., νmax (mull) 2230, 1710 cm-1 ; δ(CDCl3) 0.87 (3H, distorted t, terminal CH3), 1.12-1.76 (18H, m, alkylene chain), 2.48 (2H, t, J 6 Hz, CH2 --C≡C), 7.62 (1H, d, J 5 Hz, C-5H), 8.63 (1H, d, J 5 Hz, C-6H), 8.82 (1H, s, C-2H), 10.52 (1H, s, aldehyde C-H).

reactant | 3-bromopyridine-4-carboxaldehyde | BrC=1C=NC=CC1C=O | C6H4BrNO
reactant | 1-tridecyne | 1.4 g | C#CCCCCCCCCCCC | C13H24
reactant | triphenylphosphine | 36 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 18 ml | C(C)N(CC)CC | C6H15N
catalyst | Palladium acetate | 10.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(1-Tridecynyl)pyridine-4-carboxaldehyde | 0.93 g, 73% | C(#CCCCCCCCCCCC)C=1C=NC=CC1C=O | C19H27NO
